Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Hypoxia
 
Major Surgical or Invasive Procedure:
Central Line placement
Arterial Line placement
 
History of Present Illness:
___ yo F PMH of chronic respiratory failure s/p trach/peg, 
chronic afib, subdural hematoma s/p fall, status epileticus, DM 
presents as a transfer from ___ with sepsis, hypoxemia. 
History was obtained by multiple soruces including Kindred 
rehab, ___ and ___ ED records. At her SNF (Kindred), pt was 
found today to have hypotension, hypoxia (O2 as low as 70%) with 
increased respiratory secretions, fever (Tmax100.8) and pus in 
her foley. Pt was transferred to ___ for intial 
evaluation and was transferred to ___ for ICU care. On 
presentation to ___ pt had femoral CVL was placed, 5L NS was 
given, peripheral levophed was started as well as CFTX, flagyl, 
azithromycin. 

 

Of note, pt mental status is limited at baseline. Nursing at 
___ notes that pt is nonverbal, does not follow commands, 
and has no movement. Pt does open eyes to voice. 

 

 In ED initial VS:  no temperature recorded, HR 130, BP: 108/62, 
RR: 22, SO2: 92% vent 

 Exam:  afib w/ RVR, vomitus versus thick brown secretions being 
suctioned from her trach

 Labs significant for:  no leukocytosis, anemia (10.9); crt: 
1.3, INR 1.2, UA: cloudy, nitrite positive, large ___, 30 WBC, 
moderate bacteria. VBG pH 7.12 lactate 6.9

 Patient was given:  Piperacillin-Tazobactam, NORepinephrine 
(0.03-0.4 mcg/kg/min ordered)

 Imaging notable for:   CXR w/ hazy opacity projecting over the 
right lower lung c/f layering pleural effusion. 

 Consults:  none
 
Past Medical History:
Chronic resp failure s/p trach and peg
Atrial fibrillation
Depressive disorder
Subdural hematoma
Seizure disorder
Diabetes Mellitus
Orthostatic hypotension 
Intestinal infection due to Clostridium difficile 
Malignant neoplasm of ovary 
 
Social History:
___
Family History:
Not obtainable or relevant
 
Physical Exam:
 VITALS:  Reviewed.  Intubated, on multiple pressors
 GENERAL: Chronically ill appearing
 HEENT: Sclera anicteric, pupils reactive
 NECK: supple  
 LUNGS: Coarse bilaterally 
 CV: Tachycardic and irregular
 ABD: soft, diffusely tender to palpation, distended 
 EXT: cool and poorly perfused on pressors  
 
Pertinent Results:
___ 05:30AM BLOOD WBC-8.1 RBC-3.83* Hgb-10.9* Hct-37.5 
MCV-98 MCH-28.5 MCHC-29.1* RDW-16.5* RDWSD-59.8* Plt ___
___ 05:30AM BLOOD Neuts-44 Bands-9* ___ Monos-6 Eos-4 
Baso-0 ___ Metas-7* Myelos-3* NRBC-4* AbsNeut-4.29 
AbsLymp-2.19 AbsMono-0.49 AbsEos-0.32 AbsBaso-0.00*
___ 05:30AM BLOOD ___ PTT-26.7 ___
___ 05:30AM BLOOD Glucose-184* UreaN-57* Creat-1.3* Na-143 
K-4.6 Cl-106 HCO3-18* AnGap-19*
___ 05:30AM BLOOD ALT-57* AST-30 AlkPhos-106* TotBili-0.4
___ 05:30AM BLOOD Albumin-2.7* Calcium-9.2 Phos-4.5 Mg-2.5
___ 05:38AM BLOOD pO2-56* pCO2-54* pH-7.12* calTCO2-19* 
Base XS--12 Comment-GREEN TOP
___ 05:38AM BLOOD Glucose-168* Lactate-6.9* Na-141 K-4.4 
Cl-112*
___ 09:21AM BLOOD Lactate-4.5*
___ 01:35PM BLOOD Lactate-8.0*
___ 05:30AM URINE Blood-NEG Nitrite-POS* Protein-300* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-LG*
___ 05:30AM URINE RBC-0 WBC-30* Bacteri-MOD* Yeast-NONE 
Epi-0

Microbiology
- Blood and urine cultures pending at time of death

Abdominal X-Ray ___
Within the limitations of the study the findings are highly 
suspicious of 
pneumoperitoneum. CT may be considered for further 
characterization. 

 
Brief Hospital Course:
___ y/o F with a h/o chronic resp failure s/p trach/PEG, A-fib, 
DM, Seizure disorder, who presented with shock, afib/RVR, UTI, 
acute hypoxemic and hypercarbic respiratory failure.

She was intubated and started on pressor and broad spectrum 
antibiotics in the ___ ED.  Central line was placed.  
Urinalysis was consistent with a urinary tract infection.  She 
was admitted to the ___ ICU.

After arrival in the medical ICU, A-Fib with RVR continued with 
rates to as high as the 180's.  She required escalating doses of 
vasopressors.  She was also started on amiodarone to control her 
rates.  After ICU admission, her ED Chest X-Ray was reviewed, 
and looked concerning for free air under the diaphragm 
(initially read as a loop of bowel).  She was noted to be tender 
on exam of the abdomen.  A stat portable abdominal XR confirmed 
the high suspicion for perforated viscous.  Surgery was 
consulted, recommending CT scan.

During this time, her lactate rose to 8.0.  Vasopressor 
requirement rose.  Continuous IV fluid boluses were given.  The 
son/HCP was contacted.  The patient was already DNR, per MOLST.  
After discussion with him, opted to defer on CT given low 
likelihood of being a good surgical candidate anyway, and the 
dangers involved in transporting a critically ill patient to 
radiology, and to focus on comfort.

Vasopressor medications were stopped, and she passed away 
shortly thereafter.
 
Medications on Admission:
Reviewed in nursing home records
 
Discharge Medications:
deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
deceased
 
Discharge Condition:
deceased
 
Discharge Instructions:
deceased
 
Followup Instructions:
___